US08242153B2
In analogy to example 1d (R)-2-amino-3-(1-phenyl-ethoxy)-propan-1-ol was reacted with cyanogen bromide to give (4S)-4-(1-phenyl-ethoxymethyl)-4,5-dihydro-oxazol-2-ylamine. Light yellow oil. MS (ISP): 221.3 ([M+H]+)).

reactant | (R)-2-amino-3-(1-phenyl-ethoxy)-propan-1-ol | N[C@H](CO)COC(C)C1=CC=CC=C1 | C11H17NO2
reactant | cyanogen bromide | N#CBr | CBrN
product | (4S)-4-(1-phenyl-ethoxymethyl)-4,5-dihydro-oxazol-2-ylamine | C1(=CC=CC=C1)C(C)OC[C@@H]1N=C(OC1)N | C12H16N2O2
